US05536714
17β-(N-t-Butylcarbamoyl)androsta-3,5-diene-3-carboxylic acid
600 mg of sodium phosphate dihydrate and 1.2 g of sodium chlorite were added, in that order, at room temperature to a mixture of 7.5 ml of t-butanol, 2.0 ml of water and 1 ml of 2-methyl-2-butene containing 400 mg of N-t-butyl-3-formylandrosta-3,5-diene-17β-carboxamide (prepared as described in Preparation 6). The reaction mixture was then stirred for 15 minutes. At the end of this time, the reaction mixture was quenched by pouring it into a ice-cooled aqueous solution of sodium thiosulfate; it was then made acidic by the addition of 1N aqueous hydrochloric acid, and extracted with ethyl acetate three times. The combined organic extracts were washed with water and with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, and concentrated by evaporation under reduced pressure. The resulting residue was crystallized by the addition of diethyl ether, to give 225 mg of the title compound.

reactant | sodium phosphate dihydrate | 600 mg | O.O.P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | sodium chlorite | 1.2 g | Cl(=O)[O-].[Na+]
reactant | 2-methyl-2-butene | 1 ml, 400 mg | CC(C)=CC | C5H10
reactant | N-t-butyl-3-formylandrosta-3,5-diene-17β-carboxamide | C(C)(C)(C)NC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C=C(CC[C@]3(C)[C@H]1CC2)C=O | C25H37NO2
solvent | water | 2.0 ml | O | H2O
solvent | t-butanol | 7.5 ml | C(C)(C)(C)O | C4H10O
product | 17β-(N-t-Butylcarbamoyl)androsta-3,5-diene-3-carboxylic acid | 225 mg | C(C)(C)(C)NC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C=C(CC[C@]3(C)[C@H]1CC2)C(=O)O | C25H37NO3
